US04965257
4-t-butyl-1-(4-ethynylphenyl)-2,6,7-trioxabicyclo[2,2,2]octane
Using the methodology described in (ii) above and starting from 1-(4-ethynylphenyl)-4-n-propyl-2,6,7-trioxabicyclo[2,2,2]octane and methyl chloroformate, methyl 3-[4-(4-n-propyl-2,6,7-trioxabicyclo[2,2,2]oct-1-yl)phenyl]prop-2-ynoate was prepared.

reactant | 1-(4-ethynylphenyl)-4-n-propyl-2,6,7-trioxabicyclo[2,2,2]octane | C(#C)C1=CC=C(C=C1)C12OCC(CO1)(CO2)CCC | C16H18O3
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | methyl 3-[4-(4-n-propyl-2,6,7-trioxabicyclo[2,2,2]oct-1-yl)phenyl]prop-2-ynoate | C(CC)C12COC(OC1)(OC2)C2=CC=C(C=C2)C#CC(=O)OC | C18H20O5
product | 4-t-butyl-1-(4-ethynylphenyl)-2,6,7-trioxabicyclo[2,2,2]octane | C(C)(C)(C)C12COC(OC1)(OC2)C2=CC=C(C=C2)C#C | C17H20O3
